US08471005B2
To [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine (60.00 mg, 0.140 mmol) in N,N-dimethylformamide (0.52 mL)/Methanol (2.00 mL)/Acetic acid (0.26 mL) was added oxetan-3-one (30.06 mg, 0.417 mmol) and the reaction mixture was cooled to 0° C. Sodium cyanoborohydride (43.64 mg, 0.695 mmol) was added and the reaction was heated at 60° C. overnight, and then at room temperature in air for 10 h to re-aromatize the pyrrolo[2,1-f][1,2,4]triazine core, which underwent partial reduction. The reaction mixture was concentrated, and the residue was partitioned between dichloromethane/1N sodium carbonate, washed with brine, dried over sodium sulfate, and concentrated. The product was isolated by flash chromatography (ISCO, SIlicagel, MeOH/DCM 0-10%) to afford [2-methoxy-4-(1-oxetan-3-yl-piperidin-4-yl)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine as a yellow solid (40 mg, 59%). MP: 78-85° C.; 1H-NMR (CDCl3) δ 8.69 (s, 1H), 8.30 (d, J=8.7 Hz, 1H), 7.99 (dd, J=7.6 ; 1.4 Hz, 1H), 7.42 (m, 2H), 7.12 (m, 1H), 7.07 (d, J=8.4 Hz, 1H), 7.02 (d, J=4.6 Hz, 1H), 6.83 (d, J=4.6 Hz, 1H), 6.74 (m, 2H), 4.68 (m, 4H), 3.88 (s, 3H), 3.84 (s, 3H), 3.51 (m, 1H), 2.88 (m, 2H), 2.47 (m, 1H), 1.90 (m, 6H); LC/MS (ESI+): 485.9 (M+H).

reactant | [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine | 0.140 mmol, 60.00 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C25H27N5O2
reactant | oxetan-3-one | 0.417 mmol, 30.06 mg | O1CC(C1)=O | C3H4O2
reactant | Sodium cyanoborohydride | 0.695 mmol, 43.64 mg | C(#N)[BH3-].[Na+]
reactant | pyrrolo[2,1-f][1,2,4]triazine | N=1N2C(C=NC1)=CC=C2 | C6H5N3
solvent | N,N-dimethylformamide | 0.52 mL | CN(C=O)C | C3H7NO
solvent | Acetic acid | 0.26 mL | C(C)(=O)O | C2H4O2
solvent | Methanol | 2.00 mL | CO | CH4O
product | [2-methoxy-4-(1-oxetan-3-yl-piperidin-4-yl)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 40 mg, 59% | COC1=C(C=CC(=C1)C1CCN(CC1)C1COC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C28H31N5O3
